US07811595B2
Preparation of {[5-(3-chloro-phenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-acetic acid methyl ester (6):
To a degassed solution of [(3-hydroxy-5-trifluoromethane-sulfonyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester, 5, (0.30 g, 0.84 mmol) in 1,4-dioxane (10 mL) at room temperature under N2 is added 3-chlorophenylboronic acid (0.196 g, 1.26 mmol), Pd(dppf)Cl2 (0.068 g, 0.0084 mmol) and K3PO4 (0.195 g, 0.92 mmol). The resulting suspension is heated in a sealed tube at 85° C. for 16 hours. After this time, the mixture is cooled to room temperature and concentrated under reduced pressure. The residue is then treated with 1M HCl (1 mL) and diluted with EtOAc. The organic layer is separated, washed with H2O, saturated aqueous NaCl and concentrated under reduced pressure. The crude material is purified over silica (EtOAc:heptane 3:7). The resulting solid can be crystallized from EtOAc/heptane to afford 0.143 g (53% yield) of the desired compound as a colorless solid. 1H NMR (400 MHz, CDCl3) δ ppm 11.77 (1H, s), 8.36 (1H, t, J=5.7 Hz), 8.24 (1H, d, J=1.8 Hz), 7.50-7.53 (1H, m), 7.39-7.42 (2H, m), 7.34-7.37 (2H, m), 4.20 (2H, d, J=5.9 Hz), 3.76 (3H, s). HPLC-MS: m/z.

reactant | [(3-hydroxy-5-trifluoromethane-sulfonyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester | COC(CNC(=O)C1=NC=C(C=C1O)OS(=O)(=O)C(F)(F)F)=O | C10H9F3N2O7S
reactant | 3-chlorophenylboronic acid | 1.26 mmol, 0.196 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K3PO4 | 0.92 mmol, 0.195 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.0084 mmol, 0.068 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {[5-(3-chloro-phenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-acetic acid methyl ester | 0.143 g, 53% yield | COC(CNC(=O)C1=NC=C(C=C1O)C1=CC(=CC=C1)Cl)=O | C15H13ClN2O4
